US04971980
Grams 10 4-dimethylaminobutyric acid hydrochloride are heated up till melting together with 6.45 g o-phenylendiamine then it is allowed to cool and 150 ml water are added thereto. The solution is washed with dichloromethane, made alkaline and extracted with dichloromethane. The extracts are collected together, filtered on charcoal, made anhydrous on sodium sulphate and evaporated to dryness. A thick oily reddish residue is obtained, which is triturated with 200 ml diethyl ether to give 5.8 g 2-(3-dimethylaminopropyl)benzimidazole melting at 117°-119° C.

reactant | 4-dimethylaminobutyric acid hydrochloride | Cl.CN(CCCC(=O)O)C
reactant | o-phenylendiamine | 6.45 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | water | 150 ml | O | H2O
product | 2-(3-dimethylaminopropyl)benzimidazole | 5.8 g | CN(CCCC=1NC2=C(N1)C=CC=C2)C | C12H17N3
